* Z:\mnt\spice-netlists\LT3088_DC2279A.asc
XU1 MP_01 N001 OUT MP_02 IN LT3088
V1 IN 0 5
R1 N001 0 30.1K
C1 OUT 0 10µ
Rload OUT 0 1.875
C2 IN 0 10µ
.tran 1m startup
* LT3088 - 800mA Single Resistor Rugged Linear Regulator\nWide Safe Operating Area Linear Regulator\nInput: 1.2V to 36V       Output: 1.5V @ 800mA\n(Current limited internally by Vin-Vout differential, refer to datasheet)
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright ©2015 Linear Technology Inc. All rights reserved.
.lib LT3088.sub
.backanno
.end
