* Z:\mnt\spice-netlists\LT3511_DC1517A.asc
XU1 N003 MP_01 IN MP_02 0 N010 MP_03 MP_04 MP_05 N009 N006 N007 MP_06 N004 MP_07 N005 LT3511
L1 IN N005 300µ
L2 0 N001 19µ
C1 OUT 0 22µ
D1 N005 N002 MURS120
D2 IN N002 1N5373B
D3 N001 OUT MBRS140
R1 IN N003 806K
R2 N003 0 31.6K
R3 N006 0 69.8K
R4 N005 N004 169K
R5 0 N007 10K
C2 0 N010 4.7µ
C3 N009 N008 3.3n
R6 N008 0 31.6K
V1 IN 0 48
Rload OUT 0 16.7
C4 IN 0 1µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 4m startup
K1 L1 L2 0.998
* LT3511 - Monolithic High Voltage Isolated Flyback Converter\nInput: 48V       Output: 5V @ 0.3A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
.lib LT3511.sub
.backanno
.end
