* Z:\mnt\spice-netlists\LT3572_DC1197A.asc
XU1 N002 N001 N013 N014 0 N011 N009 N003 MP_01 N001 N001 N001 N004 N012 N007 N010 N008 N005 N006 LT3572
L1 N001 N002 10µ
D1 N002 N003 1N5819
R1 N003 N004 576K
R2 N004 0 24.3K
V1 N001 0 5
C1 N003 N004 15p
C2 N003 0 10µ
C5 0 N012 .01µ
R3 0 N014 42.2K
V2 N009 0 pulse(0 3.3 0 .1u .1u 10u 20u)
V3 N011 0 pulse(0 3.3 5u .1u .1u 10u 20u)
R4 N001 N007 100K
C§Y1 N005 N006 2.2n
C§Y2 N008 N010 2.2n
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2010 Linear Technology Inc. All rights reserved.
* LT3572 - Dual Full-Bridge Piezo Driver with 900mA Boost Converter\nInput: 3V   Output: 30V @ 50mA
.lib LT3572.sub
.backanno
.end
