* Z:\mnt\spice-netlists\LT3640_DC1359A.asc
XU1 MP_01 N015 N009 N013 N006 N004 N008 N010 N011 0 NC_02 0 MP_03 MP_04 N007 N005 N003 N002 IN MP_05 OUT1 N012 MP_06 OUT1 N016 N014 N001 IN LT3640
C1 N015 0 1000p
V1 IN 0 12
R1 N013 0 32.4K
C3 N011 0 15p
C4 N010 0 15p
D1 N007 N005 SS24
L1 N005 OUT1 3.3µ
R2 OUT1 N009 80.6K
R3 N009 0 49.9K
C5 OUT1 0 22µ
C6 N002 N003 .1µ
D2 OUT1 N002 PMEG4005AEA
L2 N012 OUT2 1µ
R4 OUT2 N014 49.9K
R5 N014 0 49.9K
C7 OUT2 0 22µ
C2 N016 0 1000p
C8 IN 0 2.2µ
R8 N001 OUT1 100k
R6 N004 OUT1 100K
R7 N006 OUT1 100K
R9 N008 OUT1 100K
Rload1 OUT1 0 4.125
Rload2 OUT2 0 1.2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
* LT3640 - Dual Monolithic Buck Regulator with Power-On Reset and Watchdog Timer\nDual High Voltage Buck with POR and WDT\nInput: 5V to 35V (Transient to 55V)       Output 1: 3.3V @ 0.8A         Output 2: 1.2V @ 1A
.lib LT3640.sub
.backanno
.end
