* Z:\mnt\spice-netlists\LT3697_DC1893A.asc
R1 N006 0 174K
V1 IN 0 20
L1 N003 N002 10µ
C3 N001 N003 1µ
C4 N002 0 47µ
R2 N004 N009 10K
C5 N004 N009 10n
Rload OUT 0 2
R4 N002 N004 22m
R3 N004 OUT .3
R5 0 N008 14.7K
XU1 MP_01 N010 N006 IN IN MP_02 MP_03 MP_04 MP_05 MP_06 MP_07 MP_08 N003 MP_09 MP_10 N001 MP_11 N002 N005 N009 N002 N004 N008 N007 0 LT3697
C6 N010 0 1000p
D1 N002 N001 1N914
C1 N004 0 100µ
D2 0 N003 MBRS340
C2 IN 0 4.7µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
* LT3697 - USB 5V, 2.5A Output, 35V Input Buck with Cable Drop Compensation\n5V Step-Down Converter with Cable Drop Compensation and Output Current Limit\nInput: 8V to 35V     Output: 5V @ 6A, Fsw = 500KHz
.lib LT3697.sub
.backanno
.end
