* Z:\mnt\spice-netlists\LT3744_DC2339A.asc
XU1 IN N004 N001 N004 N004 N001 N001 N001 N001 0 NC_01 0 N025 N026 0 N020 N021 N029 N028 N027 N008 N007 N019 N010 N018 0 N017 MP_02 N005 N006 N003 N009 MP_03 N002 MP_04 IN LT3744
V1 IN 0 12
C1 N001 0 2.2µ
C2 N002 0 22µ
R4 N025 0 100K
C3 N026 0 .0001µ
C6 N032 0 10n
D2 N002 N003 CMDSH2-3
M1 IN N005 N006 N006 BSC035N04LS
M2 N006 N009 0 0 BSC027N04LS
L1 N006 N007 .82µ
R5 N007 N008 3m
C7 N008 0 47µ
R7 N008 N021 4.02K
R8 N021 0 1K
M3 N022 N017 0 0 Si4408DY
M4 N022 N017 N011 N011 Si4408DY
C8 N008 N011 470µ
M5 N023 N018 0 0 Si4408DY
M6 N023 N018 N012 N012 Si4408DY
C9 N008 N012 470µ
M7 N024 N019 0 0 Si4408DY
M8 N024 N019 N013 N013 Si4408DY
C10 N008 N013 470µ
D4 N010 N011 BAT54
D5 N010 N012 BAT54
D6 N010 N013 BAT54
D7 N010 0 BAT54
C11 N003 N006 .22µ
C4 N031 0 10n
C5 N030 0 10n
D1 N008 N014 PT-121-B
M9 N014 N017 N020 N020 BSB012N03LX3
M10 N015 N018 N020 N020 BSB012N03LX3
M11 N016 N019 N020 N020 BSB012N03LX3
R1 N020 0 3m
D3 N008 N015 PT-121-B
D8 N008 N016 PT-121-B
R2 N001 N004 100K
R3 N004 0 309K
C12 IN 0 56µ
R6 N027 N030 25.5K
R9 N028 N031 25.5K
R10 N029 N032 25.5K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10m startup
* LT3744 - High Current Synchronous Step-Down LED Driver\nHigh Power Synchronous Step-Down LED Driver\nInput: 5.5V to 36V      Output: Up to 6V @ 20A
* Note:\n  A smaller SS capacitor is being used to reduce simulation time. See datasheet for typical values. \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2017 Linear Technology Inc. All rights reserved.
.lib LT3744.sub
.backanno
.end
