* Z:\mnt\spice-netlists\LT3753_DC2306A.asc
R1 N014 0 4m
L1 IN N003 18µ
L2 N001 N004 968µ
L3 N001 OUT 330µ
C1 OUT 0 4.7µ x2
R2 OUT N020 196K
R3 N020 0 9.53K
R4 N009 N013 12.7K
R5 N013 0 2.55K
V1 IN 0 24
C2 N007 0 4.7µ
M§Q1 N003 N010 N014 N014 BSC060N10NS3
R6 IN N009 100K
R7 N012 N017 1.5K
R8 N007 N011 100
R9 N024 0 340
XU1 N017 N018 N011 N024 PC817 Igain=3.4m
C3 N015 0 .4µ
C4 N021 0 .01µ
R10 N008 0 82.5K
R11 N025 0 187K
R12 N026 0 100K
R13 N027 0 44.2K
R14 N016 N014 3K
C5 OUT 0 47µ
C6 N003 N002 .22µ
M§Q2 N002 N006 0 0 Si7113DN
C7 N006 N005 .1µ
R15 N006 0 10K
D1 N006 0 BAT46WJ
R16 N023 N022 100K
R17 N024 N023 59K
C8 N012 N017 4700p
XU2 MP_01 MP_02 N008 N023 N022 NC_03 N015 N025 N009 N013 N027 NC_04 NC_05 N026 MP_06 MP_07 N021 0 0 0 N016 N014 MP_08 N010 MP_09 N007 MP_10 IN MP_11 NC_12 MP_13 N005 LT3753
C9 N011 0 1µ
XU3 N018 NC_14 N018 NC_15 0 0 NC_16 N020 LT1431
C10 N018 N019 3900p
R18 OUT N012 1K
C11 N012 0 2.2µ
D2 0 N012 BZX84C10L
D3 0 N001 RFN10BM6S
D4 0 N004 RFN10BM6S
I1 0 N015 PULSE(0 100u 2m 1n 1n 5m)
R19 N020 N019 56.2K
Rload OUT 0 54
C12 IN 0 4.7µ
C13 IN 0 56µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 36m startup uic
* LT3753 - Active Clamp Synchronous Forward Controller\nLT1431 - Programmable Reference\n80W Active Clamp Non-Synchronous Forword Converter for PoE Applications\nInput: 10V to 54V     Output: 54V @ 1.5A
* Notes:\n  Current source I1 and smaller SS capacitors values are being used to reduce simulation time. See datasheet typical values for SS capacitors .\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2017 Linear Technology Inc.  All rights reserved.
.lib LT1431.sub
.lib LT3753.sub
.lib PC817.sub
.backanno
.end
