* Z:\mnt\spice-netlists\LT3798_DC1817A.asc
C1 N016 0 4.7µ
C2 N020 N022 0.1µ
M§Q1 N017 N018 N019 N019 BSC42DN25NS3
R1 N019 0 .03
R2 N015 N014 40.2K
L1 N001 N017 300µ
L2 0 N006 19µ
L3 0 N007 19µ
C3 N005 N010 22p
C4 N002 0 10µ
R3 N001 N011 1Meg
D1 N005 N002 1N4148
R4 N001 N002 200K
D2 N017 N013 GSD2004W-V
D3 N001 N013 DFLZ33 N=4
D4 N007 N008 MBRS1100
C5 N008 0 200µ
I1 0 N002 PWL(0 0 10u 38 20u 0)
R5 N012 0 5.49K
R6 N006 N012 100K
D5 N003 N001 1N4007
D6 0 N004 1N4007
D7 0 N003 1N4007
D8 N004 N001 1N4007
V1 N003 N004 SINE(0 167 600)
C6 N001 0 0.22µ
XU1 N014 N015 N015 N015 N021 N023 N020 N022 N012 N010 N002 N009 N016 N018 N019 N011 0 LT3798
C7 N023 0 0.22µ
R7 N021 N015 10K
R8 N006 N005 20
R9 N009 0 249k
I2 0 N008 PWL(0 0 10u 500 20u 0)
C8 N012 0 22p
R10 0 N021 24.9K
R11 N002 N009 2.4Meg
R12 0 N014 31.6K
Rload N008 0 12
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 L3 1.
.tran 20m
.model 1N4007 D(Is=90p Rs=40m
+  Cjo=30p N=1.4 TT=5u)
* LT3798 - Isolated No Opto-Coupler Flyback Controller with Active PFC\nInput: 90VAC to 265VAC  Output: 24V @ 2A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
* ** \nPurposely decreased VC and Output Cap by a \nfactor of 10, and set source frequency to 600Hz\nin order to speed up simulation.
* **
* **
* **
.lib LT3798.sub
.backanno
.end
