* Z:\mnt\spice-netlists\LT3799_DC1595A.asc
XU1 N017 N017 N021 N017 N014 N011 N020 N022 N012 N010 N004 MP_01 N015 N018 N019 N009 0 LT3799
C1 N011 0 .01µ
C2 N015 0 4.7µ
C3 N020 N022 4.7n
M1 N016 N018 N019 N019 BSC42DN25NS3
R1 N019 0 .05
R2 N014 N017 200K
R3 N017 N021 40.2K
R4 N021 0 16.2K
L1 N001 N016 400µ
L2 0 N005 25µ
L3 0 N008 25µ
C4 N005 N010 4.7p
C5 N004 0 10µ
R7 N001 N009 1Meg
R8 N009 0 6.34K
D1 N005 N004 1N4148
R9 N001 N004 200K
D2 N016 N013 UPSC600
D3 N001 N013 DFLZ33 N=4
D4 N008 OUT MURS120
C6 OUT 0 330µ
D5 OUT 0 W5AP-LZMZ-5K8L N=6
I1 0 N004 pwl(0 0 10u 28 20u 0)
R10 N012 0 4.99K
R11 N005 N012 100K
D6 N002 N001 1N4007
D7 0 N003 1N4007
D8 0 N002 1N4007
D9 N003 N001 1N4007
V1 N002 N007 SINE(0 167 300)
C7 N001 0 .1µ
L4 N007 N003 1m
C8 N001 N006 0.22µ
R5 N006 0 200
I2 0 OUT pwl(0 0 10u 800 20u 0)
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 L3 1.
.tran 10m
.model 1N4007 D(Is=90p Rs=40m
+  Cjo=30p N=1.4 TT=5u)
* LT3799 - Offline Isolated Flyback LED Controller with Active PFC \nInput: 120VAC   Output: 1A/20V
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
.lib LT3799.sub
.backanno
.end
